US06297266B1
330 mg of ethyl {4-[(2-guanidino-4-methyl-thiazole-5-carbonyl)-amino]-phenoxy}-acetate are stirred at RT for 11 hrs. in 6 ml of 25% hydrochloric acid. The reaction mixture is evaporated to dryness in a vacuum and the residue is trituraited in MeCN. There are obtained 293 mg of [4-[(2-guanidino-4-methyl-thiazole-5-carbonyl)-amino]-phenoxy]-acetic acid hydrochloride (1:1); m.p. 273° C., MS: 350 (M+H)+.

reactant | ethyl {4-[(2-guanidino-4-methyl-thiazole-5-carbonyl)-amino]-phenoxy}-acetate | 330 mg | N(C(=N)N)C=1SC(=C(N1)C)C(=O)NC1=CC=C(OCC(=O)OCC)C=C1 | C16H19N5O4S
reactant | hydrochloric acid | 6 ml | Cl | ClH
product | [4-[(2-guanidino-4-methyl-thiazole-5-carbonyl)-amino]-phenoxy]-acetic acid hydrochloride | 293 mg | Cl.N(C(=N)N)C=1SC(=C(N1)C)C(=O)NC1=CC=C(OCC(=O)O)C=C1 | InChI=1S/C14H15N5O4S.ClH/c1-7-11(24-14(17-7)19-13(15)16)12(22)18-8-2-4-9(5-3-8)23-6-10(20)21;/h2-5H,6H2,1H3,(H,18,22)(H,20,21)(H4,15,16,17,19);1H
